US07745438B2
Dissolve sodium propanethiolate (7.5 g) in DMF (250 mL) at ambient temperature, then chill to −30° C. and add 1-bromo-3,5-difluorobenzene (8.35 mL). After 1 hour, warm to −15° C., and stir for an additional 3 hours. Pour into water (2 L) and extract into hexanes (3×500 mL). Wash the resulting organic solution with saturated aqueous sodium chloride (100 mL), dry (magnesium sulfate), filter and concentrate. Filter through a plug of silica gel, wash with 10:90 ethyl acetate:hexanes and concentrate to give 1-bromo-3-fluoro-5-propylsulfanylbenzene (16.2 g, 90%). The title compound is prepared essentially as described in Preparation 343.

reactant | sodium propanethiolate | 7.5 g | C(CC)[S-].[Na+]
reactant | 1-bromo-3,5-difluorobenzene | 8.35 mL | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | water | 2 L | O | H2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 1-bromo-3-fluoro-5-propylsulfanylbenzene | 16.2 g, 90% | BrC1=CC(=CC(=C1)SCCC)F | C9H10BrFS
